US07598267B2
4-[cyano(di-2-thienyl)methyl]-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 7, 1-azabicyclo[2.2.2]oct-4-yl(di-2-thienyl)acetonitrile (0.1073 g, 0.3412 mmol) and 3-bromopropyl phenyl ether (0.070 mL, 0.444 mmol) in 2CH3CN/3CHCl3 (6.5 mL) were reacted to give the desired product (0.1296 g, 72.0%). EI-MS m/z 449 (M+) Rt (2.17 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(di-2-thienyl)acetonitrile | 0.3412 mmol, 0.1073 g | N12CCC(CC1)(CC2)C(C#N)(C=2SC=CC2)C=2SC=CC2 | C17H18N2S2
reactant | 3-bromopropyl phenyl ether | 0.444 mmol, 0.070 mL | C1(=CC=CC=C1)OCCCBr | C9H11BrO
product | 4-[cyano(di-2-thienyl)methyl]-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.1296 g, 72.0% | [Br-].C(#N)C(C12CC[N+](CC1)(CC2)CCCOC2=CC=CC=C2)(C=2SC=CC2)C=2SC=CC2 | InChI=1S/C26H29N2OS2.BrH/c27-21-26(23-9-4-19-30-23,24-10-5-20-31-24)25-11-15-28(16-12-25,17-13-25)14-6-18-29-22-7-2-1-3-8-22;/h1-5,7-10,19-20H,6,11-18H2;1H/q+1;/p-1
